US06713455B2
4-(5-Pyrimidinyl)benzaldehyde
1 M aq. Na2CO3 (20 mL) and ethanol (10 mL) were added to a solution of 5-chloropyrimidine hydrochloride (3.03 g, 20.06 mmol, prepared as described in WO 9821188), 4-formylphenylboronic acid (3.90 g, 26.01 mmol) and [1,4-bis(diphenylphosphino)butane]palladium(II) dichloride (0.60 g, 0.99 mmol) in toluene (40 mL) and the mixture was heated to reflux for 18 h. The cooled reaction mixture was diluted with ethyl acetate, washed with sat. aq. NaHCO3 and brine, dried (MgSO4), and concentrated. Purification by chromatography (SiO2, 4:1 hexane/ethyl acetate) yielded 1.80 g (42%) of the title compound. MS 185 (M+H)+.

reactant | Na2CO3 | 1 M, 20 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | ethanol | 10 mL | C(C)O | C2H6O
reactant | 5-chloropyrimidine hydrochloride | 20.06 mmol, 3.03 g | Cl.ClC=1C=NC=NC1
reactant | 4-formylphenylboronic acid | 26.01 mmol, 3.90 g | C(=O)C1=CC=C(C=C1)B(O)O | C7H7BO3
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | [1,4-bis(diphenylphosphino)butane]palladium(II) dichloride | 0.99 mmol, 0.60 g | C1=CC=C(C=C1)P(CCCCP(C2=CC=CC=C2)C3=CC=CC=C3)C4=CC=CC=C4.Cl[Pd]Cl
product | 4-(5-Pyrimidinyl)benzaldehyde | 1.80 g, 42% | N1=CN=CC(=C1)C1=CC=C(C=O)C=C1 | C11H8N2O
